23
R0100 1 0 1E+12
R0002 0 2 1E+12
R0300 3 0 1
R0400 4 0 1
R0205 2 5 1E+12
C0506 5 6 1
C0007 0 7 1
C0008 0 8 1
G0100 1 0 9 0 -1E-4 5E-4 0 -2E-3 0 1.6E-3
G0002 0 2 10 0 -1E-4 5E-4 0 -2E-3 0 1.6E-3
G0300 3 0 11 12 0 0 0.5
G0400 4 0 13 14 0 0 0.5
G0003 0 3 12 0 0 0 0.5
G0003 0 3 11 0 0 0 0.5
G0004 0 4 14 0 0 0 0.5
G0004 0 4 13 0 0 0 0.5
G0205 2 5 15 0 -1E-4 5E-4 0 -2E-3 0 1.6E-3
E1600 16 0 1 0 1.33333333333333E-2
E0900 9 0 17 0 0 -7 0 56 0 -112 0 64
E1800 18 0 0 2 1.33333333333333E-2
E1000 10 0 19 0 0 -7 0 56 0 -112 0 64
E1100 11 0 5 1 1
E1300 13 0 1 2 1
E2000 20 0 2 5 1.33333333333333E-2
E1500 15 0 21 0 0 -7 0 56 0 -112 0 64
F0007 0 7 5 22 1
F0008 0 8 1 23 1
O2201 22 1 7 3
O2302 23 2 8 4
V1716 17 16 DC 1
V1918 19 18 DC 1
V0600 6 0 PULSE 0 10 0 0 0 1000 2000 1
V1200 12 0 SIN 0.55 0.45 1 0 0 0 1000
V1400 14 0 SIN 0.55 0.45 1 0 0 180 1000
V2120 21 20 DC 1
.TRAN 20 20E-3 BE 1
