9
R0100 1 0 1
R0201 2 1 2
R0300 3 0 1 0 -1
R0400 4 0 3
R0500 5 0 1
R0605 6 5 1
R0403 4 3 2
L1 7 0 1
L2 8 0 100
C0700 7 0 1
C0800 8 0 0.01
C0600 6 0 1
C0905 9 5 1
E0400 4 0 3 4 0 0 0 1
O0200 2 0 6 1
I0304 3 4 DC 2
I0007 0 7 PULSE 0 5E+1 0 0 0 0 1000 1
V0209 2 9 PULSE 0 1 0 0 0 1000 2000 1
K12 L1 L2 0.6
.TRAN 20 20E-3 BE 1
