4
R0102 1 2 0 6.5 0 -20 0 16
R0304 3 4 0.2
L0103 1 3 0.1
C0100 1 0 0.1
VX 2 0 DC 0
V0400 4 0 PULSE 0 0.7 0 0 0 1000 2000 1
.TRAN 10 10E-4 BE 1
